US07465825B2
A solution of 4′-(2-butyl-benzofuran-3-ylmethyl)-4-(3-phenyl-propoxy)-biphenyl-3-ylamine (129 mg, 0.264 mmol) and diisopropylethylamine (0.115 mL, 2.5 equiv., 0.66 mmol) in dichloromethane (5 mL) was treated with a solution of ethyl chlorooxoacetate (44 mg, 1.2 equiv., 0.317 mmol) in dichloromethane (1 mL). After stirring for 2 h, the solution was diluted with water and extracted with dichloromethane (2×15 mL). The combined organic layers were washed with water, sat'd aq NaCl, dried over anhydrous MgSO4, filtered and concentrated in vacuo. Purification by prep thin layer chromatography (25% ethyl acetate in heptane) afforded N-[4′-(2-butyl-benzofuran-3-ylmethyl)-4-(3-phenyl-propoxy)-biphenyl-3-yl]-oxalamic acid ethyl ester (120 mg, 77%).

reactant | 4′-(2-butyl-benzofuran-3-ylmethyl)-4-(3-phenyl-propoxy)-biphenyl-3-ylamine | 0.264 mmol, 129 mg | C(CCC)C=1OC2=C(C1CC1=CC=C(C=C1)C1=CC(=C(C=C1)OCCCC1=CC=CC=C1)N)C=CC=C2 | C34H35NO2
reactant | diisopropylethylamine | 0.66 mmol, 0.115 mL, 2.5 equiv. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl chlorooxoacetate | 0.317 mmol, 44 mg, 1.2 equiv. | ClC(C(=O)OCC)=O | C4H5ClO3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-[4′-(2-butyl-benzofuran-3-ylmethyl)-4-(3-phenyl-propoxy)-biphenyl-3-yl]-oxalamic acid ethyl ester | 120 mg, 77% | C(C)OC(C(=O)NC=1C=C(C=CC1OCCCC1=CC=CC=C1)C1=CC=C(C=C1)CC1=C(OC2=C1C=CC=C2)CCCC)=O | C38H39NO5
